US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and methyl 2-hydroxyethylcarbamate, there is obtained 2-methoxycarbonylamino-ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 339 (5), 308 (2), 237 (22), 194 (56), 102 (100);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | methyl 2-hydroxyethylcarbamate | OCCNC(OC)=O | C4H9NO3
product | 2-methoxycarbonylamino-ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCNC(=O)OC)=N | C19H21N3O3
